US06288077B1
Step A: Di-(tert-butyl) 4-[(amino-(imino)-methyl)amino]benzylimidodicarbonate
10 mmol of di-(tert-butyl) 4-aminobenzylimidodicarbonate and 100 mmol of cyanamide are heated at reflux for 2 days in 80 ml of anhydrous ethanol. Removal of the ethanol by evaporation, and purification by chromatography on silica, yield the expected product.

reactant | di-(tert-butyl) 4-aminobenzylimidodicarbonate | 10 mmol | NC1=CC=C(CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C17H26N2O4
reactant | cyanamide | 100 mmol | N#CN | CH2N2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | Di-(tert-butyl) 4-[(amino-(imino)-methyl)amino]benzylimidodicarbonate | NC(=N)NC1=CC=C(CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C18H28N4O4
